US08193378B2
Methyl 5,6-dichloronicotinate (1.5 g) and 60% sodium hydride (640 mg) were dissolved in THF (45 mL). 1,3-Difluoropropan-2-ol (1.5 g) was added thereto at 0° C., followed by stirring at 0° C. for 3 hours, and the reaction solution was quenched with aqueous NH4Cl. After extraction with EtOAc, the organic layer was dried over MgSO4 and then filtered, and the desiccant was removed. The vehicle was evaporated under reduced pressure, followed by purification by silica gel column chromatography (hexane:AcOEt=100:0 to 50:50) to obtain methyl 5-chloro-6-[(1,3-difluoropropan-2-yl)oxy]nicotinate (1.56 g) as a colorless liquid.

reactant | Methyl 5,6-dichloronicotinate | 1.5 g | ClC=1C(=NC=C(C(=O)OC)C1)Cl | C7H5Cl2NO2
reactant | sodium hydride | 640 mg | [H-].[Na+]
reactant | 1,3-Difluoropropan-2-ol | 1.5 g | FCC(CF)O | C3H6F2O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | methyl 5-chloro-6-[(1,3-difluoropropan-2-yl)oxy]nicotinate | 1.56 g | ClC=1C(=NC=C(C(=O)OC)C1)OC(CF)CF | C10H10ClF2NO3
